US05221687
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1-H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one hydrochloride
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one (1.00 g) was suspended in ethanol (40 ml) and concentrated hydrochloric acid (1.00 ml) was added. The mixture was warmed to 40° and charcoal (0.25 g) was added. The resulting suspension was stirred and warmed for 5 min. and then filtered. The filtrate was evaporated in vacuo to ca. 20 ml and was allowed to cool to 20°. Ether (40 ml) was added with stirring over 5 min., and the mixture was stored at 4° overnight. The resulting precipitate was filtered off, washed with ether (2×10 ml), dried in vacuo at room temperature for 2 h and then at 70° for 7 h to give the title compound (0.95 g), m.p. 288°-291°.

reactant | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 1.00 g | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
reactant | hydrochloric acid | 1.00 ml | Cl | ClH
reactant | charcoal | 0.25 g | C | CH4
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1-H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one hydrochloride | 0.95 g | Cl.CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | InChI=1S/C17H18N4O.ClH/c1-11-13(19-10-18-11)9-21-8-7-15-16(17(21)22)12-5-3-4-6-14(12)20(15)2;/h3-6,10H,7-9H2,1-2H3,(H,18,19);1H
